datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[c:23]1[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]1[H:33]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[c:23]1[c:24]([H:29])[c:25]([H:30])[c:26]([H:31])[c:27]([H:32])[c:28]1[H:33])[H:13])([H:11])[H:12],2.34304
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])([C:11]([H:19])([H:20])[H:21])[H:15])[H:14])([H:12])[H:13]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:15])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:16])([H:17])[H:18])[C:11]([H:19])([H:20])[H:21])[H:14])([H:12])[H:13],10.8784
[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:4])([H:5])[H:6].[H:12]>>[C:0]([C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6].[H:4][H:12],17.9494
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20](=[C:21]([C:22]([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:28])([H:26])[H:27]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:22]([C:21](=[C:20]([H:26])[H:27])[H:28])([C:23]([H:29])([H:30])[H:31])[C:24](=[C:25]([H:33])[H:34])[H:32])[H:10])([H:8])[H:9],63.806
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])[C:3]([C:4]([C:5](=[C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18])([H:15])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:2]([H:12])([H:13])[H:14])[C:3]([H:15])([H:16])[C:4]([H:17])([H:18])[C:5]1([C:6]([C:7]([H:20])([H:21])[H:22])[C:8]([H:23])([H:24])[H:25])[H:19])([H:9])([H:10])[H:11],68.5339
[O:0][S:1](=[O:2])[H:3]>>[O:0]([S:1]=[O:2])[H:3],125.1016
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[S:16][H:23])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:14]([C:13]([H:17])([H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[S:16][H:23],0.8368
[C:0](#[C:1][C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5]([C:6]([C:7]([H:18])([H:19])[H:20])=[C:8]([C:9]([H:22])([H:23])[H:24])[H:21])([H:16])[H:17])([H:14])[H:15])[H:10]>>[C:0](#[C:1][C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]([C:7]([H:18])([H:19])[H:20])[C:8]1([C:9]([H:22])([H:23])[H:24])[H:21])[H:10],86.7762
[C:0](=[O:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:13])([H:14])[H:15])([O:7][O:8])[H:12])([H:9])([H:10])[H:11]>>[C:0](=[O:1])[H:3].[H:2][O:8][O:7][C:5]([C:4]([H:9])([H:10])[H:11])([C:6]([H:13])([H:14])[H:15])[H:12],56.9024
[C:0](#[C:1][H:3])[H:2].[C:4]([c:5]1[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]1[H:17])([H:11])[H:12]>>[C:0](=[C:1][H:3])([H:2])[C:4]([c:5]1[c:6]([H:13])[c:7]([H:14])[c:8]([H:15])[c:9]([H:16])[c:10]1[H:17])([H:11])[H:12],44.9362
[C:0](=[C:1]([C:2]([H:6])([H:7])[H:8])[C:3]([H:9])([H:10])[H:11])([H:4])[H:5].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18]>>[C:0]([C:1]([C:2]([H:6])([H:7])[H:8])([C:3]([H:9])([H:10])[H:11])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])([H:4])[H:5],54.8941
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11](=[C:12][C:13]([H:16])([H:17])[H:18])([H:14])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:12](=[C:11]([H:14])[H:15])[C:13]([H:16])([H:17])[H:18])[H:5],16.1921
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8]([C:9]([S:10][H:20])[c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:9]([C:8]([H:17])([H:18])[H:19])([S:10][H:20])[c:11]1[c:12]([H:21])[c:13]([H:22])[c:14]([H:23])[c:15]([H:24])[c:16]1[H:25],8.7864
[C:0]([S:1][C:2](=[O:3])[H:7])([H:4])([H:5])[H:6].[C:8]([H:9])([H:10])[H:11]>>[C:0]([S:1][C:2]=[O:3])([H:4])([H:5])[H:6].[H:7][C:8]([H:9])([H:10])[H:11],37.66
[C:0](#[C:1][C:2](=[C:3]([C:4]#[C:5][H:9])[H:8])[H:7])[H:6].[C:10](#[C:11][C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]([C:3]([C:4]#[C:5][H:9])[H:8])([H:7])[C:12]([C:11]#[C:10][H:13])([H:14])[H:15])[H:6],29.0788
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([H:12])([H:13])[H:14])[H:8])[H:7])([H:5])[H:6].[C:15](=[C:16]([C:17]([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27])[H:23])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]([H:12])([H:13])[H:14])[H:7])([H:5])[H:6].[H:8][C:17]([C:16](=[C:15]([H:21])[H:22])[H:23])([C:18]([H:24])([H:25])[H:26])[C:19](=[C:20]([H:28])[H:29])[H:27],49.7896
[O:0]=[C:1][O:2][H:3].[O:4][O:5][H:6]>>[O:0]=[C:1]([O:2][H:3])[H:6].[O:4][O:5],0.0
